US04914207
1. o-Methoxythiobenzamide
A solution of 6.5 g of o-methyoxybenzonitrile and 8.22 ml of diethyldithiophosphate in 200 ml of ethyl aceate was saturated with hydrogen chloride gas, and the resulting reaction mixture allowed to stir overnight at room temperature. The solvent was removed in vacuo and the oily residue triturated with hexane. The resulting solid was filtered and dried, 3.6 g.

reactant | o-methyoxybenzonitrile | 6.5 g | COC1=C(C#N)C=CC=C1 | C8H7NO
reactant | diethyldithiophosphate | 8.22 ml | C(C)SP(=S)(OCC)[O-]
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl aceate | 200 ml | C(C)(=O)OCC | C4H8O2
product | o-Methoxythiobenzamide | COC1=C(C(=S)N)C=CC=C1 | C8H9NOS
